US07300936B2
The above polymer-bound D-Leu-NH2 (20 g) was treated with CH2Cl2 (150 mL), pyridine (100 mL) and 4-chlorophenylsulfonyl chloride (20.0 g, 94.8 mmol). The mixture was shaken for 24 h, drained, washed with DMF (4×200 mL), CH2Cl2 (4×200 mL) and concentrated to give polymer-bound (R)-2-(4-chlorobenzenesulfonylamino)-4-methylpentanoic acid amide as a yellow resin (22 g). The completion of the reaction and the loading of the resin (0.57 mmol/g) were determined by the treatment of 50 mg of the resin with 10% (v/v) TFA/CH2Cl2 (2 mL) to give 8.7 mg of (R)-2-(4-chlorobenzenesulfonylamino)-4-methylpentanoic acid amide.

reactant | D-Leu-NH2 | 20 g | N[C@H](CC(C)C)C(=O)N | C6H14N2O
reactant | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
reactant | 4-chlorophenylsulfonyl chloride | 94.8 mmol, 20.0 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (R)-2-(4-chlorobenzenesulfonylamino)-4-methylpentanoic acid amide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)CC(C)C | C12H17ClN2O3S
